US05350748
Methyl bromopropionate (75 μL, 0.69 mmol) is added to a room temperature solution of 3-mercapto-5-methoxybenzo[b]thiophene-2-carboxamide (150 mg, 0.63 mmol) in 7 mL of THF followed by NaHCO3 (334 mg, 3.15 mmol). Additional methyl bromopropionate (150 μL) and Na2CO3 (70 mg) are added and the reaction mixture is stirred at room temperature overnight. The reaction mixture is diluted with ethyl acetate and washed with 1N HCl, water, 1N NaOH, water, and brine. The organic layer is dried over MgSO4. Filtration followed by concentration in vacuo and recrystallization from ethyl acetate: hexane followed by recrystallization from methanol: water gives methyl 3-[[2-(aminocarbonyl)-5-methoxybenzo[b]thien-3-yl]thio]propanoate in 46% yield; mp=142°-144° C.

reactant | Methyl bromopropionate | 0.69 mmol, 75 μL | BrC(C(=O)OC)C | C4H7BrO2
reactant | 3-mercapto-5-methoxybenzo[b]thiophene-2-carboxamide | 0.63 mmol, 150 mg | SC=1C2=C(SC1C(=O)N)C=CC(=C2)OC | C10H9NO2S2
reactant | NaHCO3 | 3.15 mmol, 334 mg | C(=O)(O)[O-].[Na+]
reactant | methyl bromopropionate | 150 μL | BrC(C(=O)OC)C | C4H7BrO2
reactant | Na2CO3 | 70 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-[[2-(aminocarbonyl)-5-methoxybenzo[b]thien-3-yl]thio]propanoate | 46% yield | NC(=O)C1=C(C2=C(S1)C=CC(=C2)OC)SCCC(=O)OC | C14H15NO4S2
